US05691323
The 1,3-dihydro-1-{1-[1-(2-tert-butoxycarbonylamino-5-pyrimidinylcarbonyl)piperidin-4-yl]piperidin-4-yl}-2H-benzimidazol-2-one was dissolved in ethyl acetate, cooled to -50° C. and treated with a stream of HCl gas for 2 min. The reaction mixture was allowed to warm to room temperature and stir for several hours, and then concentrated to dryness under reduced pressure. The product 1,3-dihydro-1-{1-[1-(2-amino-5-pyrimidinecarbonyl)piperidin-4-yl]piperidin-4-yl}-2H-benzimidazol-2-one dihydrochloride salt, was obtained as white solid: Analysis calculated for C22H25N7O2.2 HCl.1.0 C7H8.3.0 H2O: C: 54.38, H: 6.77, N: 15.31; found C: 54.31, H: 6.48, N: 15.23.

reactant | 1,3-dihydro-1-{1-[1-(2-tert-butoxycarbonylamino-5-pyrimidinylcarbonyl)piperidin-4-yl]piperidin-4-yl}-2H-benzimidazol-2-one | C(C)(C)(C)OC(=O)NC1=NC=C(C=N1)C(=O)N1CCC(CC1)N1CCC(CC1)N1C(NC2=C1C=CC=C2)=O | C27H35N7O4
reactant | HCl | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1,3-dihydro-1-{1-[1-(2-amino-5-pyrimidinecarbonyl)piperidin-4-yl]piperidin-4-yl}-2H-benzimidazol-2-one dihydrochloride salt | Cl.Cl.NC1=NC=C(C=N1)C(=O)N1CCC(CC1)N1CCC(CC1)N1C(NC2=C1C=CC=C2)=O | InChI=1S/C22H27N7O2.2ClH/c23-21-24-13-15(14-25-21)20(30)28-11-5-16(6-12-28)27-9-7-17(8-10-27)29-19-4-2-1-3-18(19)26-22(29)31;;/h1-4,13-14,16-17H,5-12H2,(H,26,31)(H2,23,24,25);2*1H
